US08222430B2
Synthesis of (Z)—N-((E)-3-(phenylthiomethylene) tetrahydro-2H-thiopyran-2-ylidene) aniline
0.48 g of methanesulfonyl chloride was added to 20 ml of methylene chloride solution including 0.4 g of (E)-5-hydroxy-N-phenyl-2-(phenylthiomethylene) pentanethioamide, 0.46 g of triethylamine and 0.69 of sodium iodide. The resulting solution was stirred at room temperature for 3 hours, and added with water, extracted with ethyl acetate. The organic layer was washed with brine, dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.23 g of the title compound.

reactant | methanesulfonyl chloride | 0.48 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | (E)-5-hydroxy-N-phenyl-2-(phenylthiomethylene) pentanethioamide | 0.4 g | OCCC\C(\C(NC1=CC=CC=C1)=S)=C/SC1=CC=CC=C1 | C18H19NOS2
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | triethylamine | 0.46 g | C(C)N(CC)CC | C6H15N
product | (Z)—N-((E)-3-(phenylthiomethylene) tetrahydro-2H-thiopyran-2-ylidene) aniline | 0.23 g | C1(=CC=CC=C1)S\C=C/1\C(\SCCC1)=N\C1=CC=CC=C1 | C18H17NS2
